US07192956B2
To a solution of spiro[3,1-benzoxazine-4,1′-cyclobutan]-2(1H)-one (0.36 g, 1.9 mmol) and potassium acetate (0.56 g, 5.7 mmol) in acetic acid was added a solution of bromine (0.09 mL, 1.95 mmol) in acetic acid (2 mL) at room temperature. Upon completion by TLC of the reaction, the acetic acid was removed. The residue was treated with saturated sodium bicarbonate (100 mL) and the product extracted with ethyl acetate (50 mL). The organics were dried over magnesium sulfate and concentrated. Trituration of residue with ether gave 6-bromospiro[3,1-benzoxazine-4,1′-cyclobutan]-2(1H)-one (0.27 g, 52%) as a white solid. 1H NMR (DMSO-d6): δ 10.37 (s, 1H), 7.65 (d, 1H, J=2.1 Hz), 7.47 (dd, 1H, J=8.5, 2.2 Hz), 6.86 (d, 1H, J=8.5 Hz), 2.52–2.47 (m, 2H), 2.04–1.98 (m, 2H), 1.87–1.80 (m, 2H). MS (ESI) m/z 268/270 ([M+H]+); MS (ESI) m/z 266/268 ([M−H]−).

reactant | spiro[3,1-benzoxazine-4,1′-cyclobutan]-2(1H)-one | 1.9 mmol, 0.36 g | C12(CCC1)OC(NC1=C2C=CC=C1)=O | C11H11NO2
reactant | potassium acetate | 5.7 mmol, 0.56 g | C(C)(=O)[O-].[K+]
reactant | bromine | 1.95 mmol, 0.09 mL | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 6-bromospiro[3,1-benzoxazine-4,1′-cyclobutan]-2(1H)-one | 0.27 g, 52% | BrC=1C=CC2=C(C1)C1(CCC1)OC(N2)=O | C11H10BrNO2
